US07989438B2
Step 3: (4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid
[(2-bromo-5-methoxybenzyl)oxy](triisopropyl)silane (1 eq) was dissolved in anhydrous THF (0.43M solution) and the solution was cooled to −78° C. A solution of n-BuLi (1.6M in hexanes, 1.05 eq) was added and the resulting mixture was stirred for 1 h at −78° C. Then triisopropyl borate (50% in THF, 1.3 eq) was added dropwise and the mixture was allowed to warm to RT overnight. 1N HCl was added and the resulting mixture was stirred at RT for 30 min. THF was removed in vacuo and replaced with Et2O. The organic phase was washed with water and with brine, then dried over Na2SO4 and evaporated in vacuo. The product was obtained as a colourless oil (64% yield, 65% pure) which was used without further purification in the next reaction.

reactant | [(2-bromo-5-methoxybenzyl)oxy](triisopropyl)silane | 1 eq | BrC1=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C1)OC | C17H29BrO2Si
reactant | n-BuLi | 1.6M, 1.05 eq | [Li]CCCC
reactant | triisopropyl borate | 1.3 eq | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N | Cl | ClH
solvent | THF | 0.43M | C1CCOC1 | C4H8O
product | (4-methoxy-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid | 64% yield | COC1=CC(=C(C=C1)B(O)O)CO[Si](C(C)C)(C(C)C)C(C)C | C17H31BO4Si
